US05677454
To a solution of 5.0 g of 2-hydroxy-4-methylpyridine in 70 mL of pyridine at 0° C. was added 13.3 g triflic anhydride dropwise. The reaction was stirred at 0° C. for 15 minutes and then allowed to warm to room temperature. After removal of the volatile reactants under reduced pressure, the residue was partitioned between 100 mL of ethyl acetate and 100 mL of 10% sodium carbonate solution. The organic layer was washed with 100 mL of brine and the solvent removed by evaporation under reduced pressure. The resulting oil was vacuum distilled at 150° C. (25 mm Hg) to provide 10.5 g of 2-trifluoromethanesulfonyl-4-methylpyridine as a colorless oil.

reactant | 2-hydroxy-4-methylpyridine | 5.0 g | OC1=NC=CC(=C1)C | C6H7NO
reactant | triflic anhydride | 13.3 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | 2-trifluoromethanesulfonyl-4-methylpyridine | 10.5 g | FC(S(=O)(=O)C1=NC=CC(=C1)C)(F)F | C7H6F3NO2S
